### PR TITLE
[Merged by Bors] - feat: the Grothendieck group of a commutative monoid

### PR DESCRIPTION
**Pull request by YaelDillies**
We put it under the `Algebra` namespace to avoid confusion with the corresponding categorical notation.

From Toric

Co-authored-by: Alex J. Best <alex.j.best@gmail.com>

---

This is a port of https://github.com/leanprover-community/mathlib3/tree/alexjbest/grothendieck-group

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/MonoidLocalization/Basic.lean [hunk 1]
```diff
@@ -1330,3 +1330,38 @@ protected def localizationMap : S.LocalizationMap R[S⁻¹] := Localization.mono
...
+
+open Localization
+
+variable {M : Type*} [CommMonoid M]
+
+variable (M) in
+/-- The Grothendieck group of a monoid `M` is the localization at its top submonoid. -/
+@[to_additive
+"The Grothendieck group of an additive monoid `M` is the localization at its top submonoid."]
+abbrev GrothendieckGroup : Type _ := Localization (⊤ : Submonoid M)
```
Comment (erdOne) [inline Mathlib/GroupTheory/MonoidLocalization/Basic.lean:1344]: I'm not sure if this should live in the root namespace. The first thing I think of when I hear "grothendieck group" is the category theoretical construction.

**Comment by acmepjz** [comment]
This has nothing to do with the Grothendieck group of finitely generated projective modules over a ring, right?

**Comment by YaelDillies** [comment]
[Wikipedia](https://en.wikipedia.org/wiki/Grothendieck_group#Grothendieck_group_of_a_commutative_monoid) claims it is related.

**Comment by acmepjz** [comment]
> [Wikipedia](https://en.wikipedia.org/wiki/Grothendieck_group#Grothendieck_group_of_a_commutative_monoid) claims it is related.

Oh yes

> The zeroth algebraic K group K0(R) of a (not necessarily commutative) ring R is the Grothendieck group of the monoid consisting of isomorphism classes of finitely generated projective modules over R, with the monoid operation given by the direct sum.

**Review by erdOne — COMMENTED** [review]
Thanks!
maintainer merge

File: Mathlib/GroupTheory/MonoidLocalization/Basic.lean [hunk 2]
```diff
@@ -1297,6 +1297,32 @@ theorem mulEquivOfQuotient_symm_monoidOf (x) :
...
+
+/-- The Grothendieck group is a group. -/
+@[to_additive "The Grothendieck group is a group."]
+instance instCommGroup : CommGroup (GrothendieckGroup M) where
+  __ : CommMonoid (GrothendieckGroup M) := inferInstance
+  inv_mul_cancel a := by
+    induction' a using ind
+    rw [inv_mk, mk_eq_monoidOf_mk', ←Submonoid.LocalizationMap.mk'_mul]
+    convert Submonoid.LocalizationMap.mk'_self' _ _
+    rw [mul_comm, Submonoid.coe_mul]
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/MonoidLocalization/Basic.lean:1324]: Can you put these in the `GrothendieckGroup` namespace?

File: Mathlib/GroupTheory/MonoidLocalization/Basic.lean [hunk 3]
```diff
@@ -1297,6 +1297,32 @@ theorem mulEquivOfQuotient_symm_monoidOf (x) :
...
+"The Grothendieck group of an additive monoid `M` is the localization at its top submonoid."]
+abbrev GrothendieckGroup : Type _ := Localization (⊤ : Submonoid M)
+
+@[to_additive]
+instance : Inv (GrothendieckGroup M) where
+  inv := rec (fun m s ↦ (.mk s ⟨m, Submonoid.mem_top m⟩ : GrothendieckGroup M))
+    fun {m₁ m₂ s₁ s₂} h ↦ by simpa [r_iff_exists, mk_eq_mk_iff, eq_comm, mul_comm] using h
+
+@[to_additive (attr := simp)]
+lemma inv_mk (m : M) (s : (⊤ : Submonoid M)) : (mk m s)⁻¹ = .mk s ⟨m, Submonoid.mem_top m⟩ := rfl
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/MonoidLocalization/Basic.lean:1314]: Can you add the `div` lemma too?

Comment (eric-wieser) [reply Mathlib/GroupTheory/MonoidLocalization/Basic.lean:1314]: (and `zpow`?)

Comment (YaelDillies) [reply Mathlib/GroupTheory/MonoidLocalization/Basic.lean]: `div` I can, but `zpow` doesn't have an analogous lemma (because the arguments to `mk` depend on the sign)

File: Mathlib/GroupTheory/MonoidLocalization/Basic.lean [hunk 4]
```diff
@@ -1297,6 +1297,41 @@ theorem mulEquivOfQuotient_symm_monoidOf (x) :
     (mulEquivOfQuotient f).symm (f.toMap x) = (monoidOf S).toMap x :=
   f.lift_eq (monoidOf S).map_units _
 
+/-! #### Grothendieck group -/
+
+variable (M) in
+/-- The Grothendieck group of a monoid `M` is the localization at its top submonoid. -/
+@[to_additive
+"The Grothendieck group of an additive monoid `M` is the localization at its top submonoid."]
+abbrev GrothendieckGroup : Type _ := Localization (⊤ : Submonoid M)
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/GroupTheory/MonoidLocalization/Basic.lean:1306]: `GrothendieckAddGroup` which I was happy with

[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/GroupTheory/MonoidLocalization/Basic.lean:1306]: Are we in the `Localization` namespace here?

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/GroupTheory/MonoidLocalization/Basic.lean:1306]: `AddLocalization.GrothendieckAddGroup` is the full name

[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/GroupTheory/MonoidLocalization/Basic.lean:1306]: Should it be in the root namespace? https://en.wikipedia.org/wiki/Grothendieck_group doesn't really mention localizations, so while it seems convenient as a (reducible) implementation, I don't think it necessary belongs in the `Localization.` namespace.

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/GroupTheory/MonoidLocalization/Basic.lean:1306]: @erdOne claied the exact opposite here: https://github.com/leanprover-community/mathlib4/pull/24738#discussion_r2083131601

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/GroupTheory/MonoidLocalization/Basic.lean:1306]: Alternatively, what about the `Algebra` namespace?

**Comment by YaelDillies** [comment]
Sorry, what assumption am I supposed to remove? I don't think any of them becomes trivial (and I assume you mean [`Submonoid.LocalizationMap.lift`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/GroupTheory/MonoidLocalization/Basic.html#Submonoid.LocalizationMap.lift) rather than [`IsLocalization.lift`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Localization/Defs.html#IsLocalization.lift) which is about rings)

**Comment by eric-wieser** [comment]
The `IsUnit` assumption, since it amounts to assuming the target is a group.

**Comment by eric-wieser** [comment]
If the range of `g` is a group, then the codomain may as well be a group to (if nothing else, the subgroup that is the range of `g`).

I bring up the suggestion since it's one of the first things on the wikipedia page, https://en.wikipedia.org/wiki/Grothendieck_group#Universal_property

**Comment by YaelDillies** [comment]
Do you also want a structure `GrothendieckGroupMap` mirroring `Submonoid.Localization.Map`?

File: Mathlib/GroupTheory/MonoidLocalization/Basic.lean [hunk 5]
```diff
@@ -1369,4 +1369,17 @@ lemma mk_div_mk (m₁ m₂ : M) (s₁ s₂ : (⊤ : Submonoid M)) :
     mk m₁ s₁ / mk m₂ s₂ = .mk (m₁ * s₂) ⟨s₁ * m₂, Submonoid.mem_top _⟩ := by
   simp [div_eq_mul_inv, mk_mul]; rfl
 
+/-- A monoid homomorphism from a monoid `M` to a group `G` lifts to a group homomorphism from the
+Grothendieck group of `M` to `G`. -/
+@[to_additive
+"A monoid homomorphism from a monoid `M` to a group `G` lifts to a group homomorphism from the
+Grothendieck group of `M` to `G`."]
+noncomputable def lift (f : M →* G) : GrothendieckGroup M →* G :=
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/MonoidLocalization/Basic.lean:1377]: I'd argue for
```suggestion
noncomputable def lift : (M →* G) ≃ (GrothendieckGroup M →* G) :=
```
though we're not completely consistent on whether we call this `lift` or `liftEquiv`.

File: Mathlib/GroupTheory/MonoidLocalization/Basic.lean [hunk 6]
```diff
@@ -1330,3 +1330,56 @@ protected def localizationMap : S.LocalizationMap R[S⁻¹] := Localization.mono
 protected noncomputable def equivMonoidLocalization : Localization S ≃* R[S⁻¹] := MulEquiv.refl _
 
 end OreLocalization
+
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/MonoidLocalization/Basic.lean:1333]: GIven that this file is already long, and this seem like a nice split point can we move this to a new file? That also gives a place to link the wikipedia page and disambiguate the categorical meaning of "GrothendieckGroup".

File: Mathlib/GroupTheory/MonoidLocalization/GrothendieckGroup.lean [hunk 7]
```diff
@@ -0,0 +1,75 @@
...
+  simp [div_eq_mul_inv, mk_mul]; rfl
+
+/-- A monoid homomorphism from a monoid `M` to a group `G` lifts to a group homomorphism from the
+Grothendieck group of `M` to `G`. -/
+@[to_additive
+"A monoid homomorphism from a monoid `M` to a group `G` lifts to a group homomorphism from the
+Grothendieck group of `M` to `G`."]
+noncomputable def lift : (M →* G) ≃ (GrothendieckGroup M →* G) where
+  toFun f := Submonoid.LocalizationMap.lift (monoidOf ⊤) (g := f) fun _ ↦ Group.isUnit _
+  invFun f := f.comp (monoidOf ⊤).toMonoidHom
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/MonoidLocalization/GrothendieckGroup.lean:66]: Can you make `simps` generate a lemma characterizing `symm` (or write it yourself)?

**Comment by eric-wieser** [comment]
bors d+

Thanks!

**Comment by YaelDillies** [comment]
bors merge

**Comment by alreadydone** [comment]
Not aware of this PR, I developed some API about Grothendieck groups, including the ring structure on additive localizations, at #28468. I call the Grothendieck group `Localization.Top` there because it feels less ambiguous, and it's a bit weird to have Group in the name when you put a ring structure on it, but I guess I'll switch to your naming now.

**Comment by YaelDillies** [comment]
My motivation was that "Grothendieck group" is a well-established name in the literature, while "top localisation" feels like a mathlibism. Compare `MonoidAlgebra` which means all of "monoid algebra", "group algebra", "commutative group algebra", "affine monoid algebra", etc...
